US05236955
A solution of 5-oxatridecanonitrile (1.90 g, 9.6 mmol) in a mixture of acetic acid (10 mL) and concentrated HCl (50 mL) was refluxed for 20 h. After evaporation of the solvent in vacuo, water (50 mL) and ethyl acetate (100 mL) were added to the residue. The organic phase was washed with water (2×50 mL), brine (1×50 mL), and then dried over Na2SO4. After distillation (Kugelrohr device, 120°-125° C./0.1 torr) and column chromatography (silica gel) using ethyl acetate:hexane (1:1) as eluent. 5-Oxatridecanoic acid (0.66 g, 32%) was isolated as a colorless oil. IR: 3550-2300, 1700 cm-1, 1H-NMR: 0.78-0.98 (t, 3H), 1.00-1.40 (m, 10H), 1.42-1.62 (p, 2H), 1.82-1.94 (p, 2H), 2.40-2.56 (t, 2H), 3.38-3.52 (m, 4H). Anal. Calcd. for C12H24O3 : C, 66.63, H, 11.18%; Found: C, 66.53, H, 11.14%.

reactant | 5-oxatridecanonitrile | 9.6 mmol, 1.90 g | C(CCCOCCCCCCCC)#N | C12H23NO
reactant | HCl | 50 mL | Cl | ClH
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-Oxatridecanoic acid | 0.66 g, 32% | C(CCCOCCCCCCCC)(=O)O | C12H24O3
